US08580762B2
N-(2-amino-4-(tert-butyl)phenyl)-3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanamide
To a solution of 3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanoic acid (1.1 g, 1.76 mmol), HATU (1 g, 2.64 mmol), HOAT (359 mg, 2.64 mmol) in DCM (30 mL) was added a solution of 4-tert-butylbenzene-1,2-diamine (433 mg, 2.64 mmol) and TEA (533 mg, 5.28 mmol) in DCM (10 mL) dropwise, then the resultant reaction mixture was stirred at rt overnight. After diluted with DCM (50 mL), the mixture was washed water (30 mL×3), dried and concentrated. The crude was purified by SGC (DCM:MeOH=100:1 to 40:1) to afford the desired compound (680 mg, yield: 50%) as a white solid. 1H NMR (500 MHz, MeOD): δH 8.16 (s, 1H), 7.19 (d, J=3.5 Hz, 1H), 7.14-7.10 (m, 1.7H),6.99-6.97 (m, 0.6H), 6.92 (s, 0.6H), 6.77 (dd, J=8.0, 2.0 Hz, 1H), 6.66-6.65 (m, 1H), 6.54-6.53 (m, 1H), 6.42 (d, J=8.0 Hz, 1H), 6.20 (d, J=2.0 Hz, 1H), 5.36-5.35 (m, 1H), 4.96-4.95 (m, 1H), 4.65 (s, 2H), 3.83 (s, 3H), 3.75 (s, 3H), 3.17-2.73 (m, 4H), 2.33-1.71 (m, 8H), 1.58 (s, 3H), 1.53-1.50 (m, 1H), 1.38 (s, 3H), 1.28 (s, 9H), 1.0 (d, J=5.5 Hz, 3H), 0.84 (d, J=5.0 Hz, 3H) ppm; LC-MS (m/z): 770.0 [M+1]+.

reactant | 3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanoic acid | 1.76 mmol, 1.1 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(C2CC(C2)CCC(=O)O)C(C)C)C=CC(=C1)OC | C33H45N5O7
reactant | HATU | 2.64 mmol, 1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAT | 2.64 mmol, 359 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 4-tert-butylbenzene-1,2-diamine | 2.64 mmol, 433 mg | C(C)(C)(C)C=1C=C(C(=CC1)N)N | C10H16N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(2-amino-4-(tert-butyl)phenyl)-3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanamide | 680 mg, yield: 50% | NC1=C(C=CC(=C1)C(C)(C)C)NC(CCC1CC(C1)N(C(C)C)C[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC)=O | C43H59N7O6
